US07160888B2
Synthesis of 7-{4-[4-(5-Oxo-5,6,7,8-tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-butoxy}-1H-[1,8]naphthyridin-2-one
In a manner similar to that of other examples above, 5-piperazin-1-yl-3,4-dihydro-2H-naphthalen-1-one was coupled by reductive amination to 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde followed by typical workup and purification to give the title compound, mp 158–160° C. MS: APCI: M+1: 447.3 (Exact Mass: 446.23).

reactant | 5-piperazin-1-yl-3,4-dihydro-2H-naphthalen-1-one | N1(CCNCC1)C1=C2CCCC(C2=CC=C1)=O | C14H18N2O
reactant | 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | O=C1C=CC=2C=CC(=NC2N1)OCCCC=O | C12H12N2O3
product | 7-{4-[4-(5-Oxo-5,6,7,8-tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-butoxy}-1H-[1,8]naphthyridin-2-one | O=C1C=2C=CC=C(C2CCC1)N1CCN(CC1)CCCCOC1=CC=C2C=CC(NC2=N1)=O | C26H30N4O3
